US06794405B2
Preparation of 4-(trans-2-aminomethyl-cyclopropyl)imidazole di-hydrochloric acid salt
To a solution of N-triphenylmethyl-4-(trans-2-aminomethyl-cyclopropyl)imidazole (100 mg, 0.26 mmol) in methanol (15 mL) was added 2N HCl solution (2.5 mL). The mixture was stirred at 60° C. for 2 hours and then concentrated. The resulting residue was extracted with ether (3×20 ml). The aqueous layer was lyophilized to give the product (47 mg, 83% yield).

reactant | N-triphenylmethyl-4-(trans-2-aminomethyl-cyclopropyl)imidazole | 0.26 mmol, 100 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)[C@H]1[C@@H](C1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25N3
reactant | HCl | 2N, 2.5 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 4-(trans-2-aminomethyl-cyclopropyl)imidazole di-hydrochloric acid salt | 47 mg, 83% yield | Cl.Cl.NC[C@H]1[C@@H](C1)C=1N=CNC1 | InChI=1S/C7H11N3.2ClH/c8-2-5-1-6(5)7-3-9-4-10-7;;/h3-6H,1-2,8H2,(H,9,10);2*1H/t5-,6+;;/m0../s1
